### PR TITLE
LF: remove stale Induction solution-marker notes

### PR DESCRIPTION
**Pull request by Robertboy18**
I initially read these markers as a rendering bug, but after checking `STYLE.md` and the generated files, they are doing exactly what this exercise needs: they hide the whole declarations so students write the statements too. The two nearby developer notes recommending `solution!` are therefore stale.

This PR now only removes those two notes. It leaves every solution marker and Lean declaration unchanged.

Tested with `make lf`. I also checked the generated student, solutions, and terse `Induction.lean` files: student and terse contain `-- FILL IN HERE`, while solutions retain the declarations without the marker lines.

### CODE REVIEW

File: LF/Induction.lean [hunk 1]
```diff
@@ -1485,26 +1485,17 @@ It would be wise to do some `example` proofs to check that your
...
 /- normalize_test_2 -/
-example : normalize (.b0 .z) = .z := by rfl
+example : normalize (.b0 .z) = .z := solution!(by rfl)
 /- normalize_test_3 -/
-example : normalize (.b0 (.b0 .z)) = .z := by rfl
+example : normalize (.b0 (.b0 .z)) = .z := solution!(by rfl)
 /- normalize_test_4 -/
-example : normalize (.b1 (.b0 .z)) = .b1 .z := by rfl
--- END SOLUTION
+example : normalize (.b1 (.b0 .z)) = .b1 .z := solution!(by rfl)
```
Comment (berberman) [inline LF/Induction.lean]: I think we are using `SOLUTION` markers here intentionally as we want the students to fill out the definitions as well.

File: LF/Induction.lean [hunk 2]
```diff
@@ -1524,40 +1515,33 @@ its own inductive proof — that will allow the main proof to make
...
     incr (doubleBin b) = .b1 b := by
-  cases b with
-  | z    => rw [doubleBin_z, incr_z]
-  | b0 n => rw [doubleBin_b0, incr_b0]
-  | b1 n => rw [doubleBin_b1, incr_b0]
+  solution!
+    cases b with
+    | z    => rw [doubleBin_z, incr_z]
+    | b0 n => rw [doubleBin_b0, incr_b0]
+    | b1 n => rw [doubleBin_b1, incr_b0]
```
Comment (berberman) [inline LF/Induction.lean]: Similarly, students are supposed to come up with the definition of this lemma.

**Review by berberman — COMMENTED** [review]
I was reviewing on my phone and could be wrong, so please double check the surrounding text to make sure that we don't accidently drop `--SOLUTION`.

**Comment by Robertboy18** [comment]
You're right. I checked `STYLE.md` and the original Rocq chapter, and these markers intentionally hide the whole declarations so students can write them. `solution!` would expose the statements. I'll restore the markers and keep only the removal of the obsolete developer notes. Thanks for catching this.

File: LF/Induction.lean (hunk 1 above)
Comment (Robertboy18) [reply LF/Induction.lean]: You are right. I restored this whole block to the `SOLUTION` markers, so the student and terse outputs still replace it with `-- FILL IN HERE`. The PR now only removes the stale developer note.

File: LF/Induction.lean (hunk 2 above)
Comment (Robertboy18) [reply LF/Induction.lean]: Agreed. I restored these markers too, so students still have to supply both declarations. The generated student and terse files contain `-- FILL IN HERE`; this PR now only removes the obsolete note.

**Review by berberman — APPROVED** [review]
Thanks for the cleanup. (The solution marker leakage was fixed in #163)
